US07652007B2
f) Benzyl[6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]carbamate
A solution of 2.74 g (3.49 mmol) of benzyl[1-{2-(4-chlorophenyl)-1-[(2,2-diethoxyethyl)-isopropylcarbamoyl]ethylcarbamoyl}-2-(2,4-dichlorobenzenesulfonylamino)ethyl]-carbamate in 45 ml of formic acid was heated at 60° C. for 6 h. The reaction mixture was then concentrated in vacuo, and the residue was purified by chromatography on 40 g of SiO2 (eluent DCM followed by 20% EtOAc/DCM). 2.25 g of the cyclized compound are obtained as a colorless solid.

reactant | benzyl[1-{2-(4-chlorophenyl)-1-[(2,2-diethoxyethyl)-isopropylcarbamoyl]ethylcarbamoyl}-2-(2,4-dichlorobenzenesulfonylamino)ethyl]-carbamate | 3.49 mmol, 2.74 g | C(C1=CC=CC=C1)OC(NC(CNS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl)C(NC(CC1=CC=C(C=C1)Cl)C(N(C(C)C)CC(OCC)OCC)=O)=O)=O | C35H43Cl3N4O8S
solvent | formic acid | 45 ml | C(=O)O | CH2O2
product | Benzyl[6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]carbamate | 2.25 g | C(C1=CC=CC=C1)OC(NC1CN(C2N(C1=O)C(C(N(C2)C(C)C)=O)CC2=CC=C(C=C2)Cl)S(=O)(=O)C2=C(C=C(C=C2)Cl)Cl)=O | C31H31Cl3N4O6S
